Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Zosyn / Penicillins / Sulfa (Sulfonamide Antibiotics) / Iodine / 
Vancomycin / Zofran / Morphine / Fentanyl / Midazolam / 
shellfish derived
 
Attending: ___
 
Chief Complaint:
Right-sided chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ woman with past medical history of SLE, renal 
transplant, prior DVT no longer on anticoagulation who presents 
with right-sided pleuritic chest pain after coming back from 
___ a few days ago. She states that she has developed the 
chest pain in her sleep, and it is worsened with deep 
inspiration. At rest, she is not dyspneic and has no radiation 
of the pain to her arms, jaw, or associated with diaphoresis or 
nausea she has a significant family cardiac history, diabetes, 
but does have hypertension and hyperlipidemia. She has been 
taking all her medications as prescribed. She denies any URI 
symptoms, cough, back pain, abdominal pain, nausea, vomiting or 
diarrhea, urinary symptoms, rashes, or paresthesias. She denies 
any leg swelling, cancer diagnosis, recent surgery, being 
bedridden, or on estrogen.

In the ED:

Initial vital signs were notable for: 97 87 120/86 18 99% RA.
Vitals remained stable in ED.

Exam notable for:
Con: alert, oriented and in no acute distress
HEENT: NCAT. PERRLA, no icterus or injection bilaterally. EOMI.
No erythema or exudate in posterior pharynx; uvula midline; MMM.
Neck: neck veins flat with full ROM
LAD: no cervical LAD
Resp: Breathing comfortably on RA. No incr WOB, CTAB with no
crackles or wheezes.
CV: RRR. Normal S1/S2. NMRG. 2+ radial and DP pulses bilateral.
Abd: Soft, Nontender, Nondistended with no organomegaly; no
rebound tenderness or guarding.
MSK: ___ without edema bilaterally
Skin: No rash, Warm and dry, No petechiae
Neuro: AOx3, speech fluent, no obvious facial asymmetry, moves
all 4 ext to command.
Psych: Normal mentation

Labs were notable for: Cr 1.5, serum K 5.9, whole blood K 5.5,
WBC 6.4, trop negative. 

Studies performed include: CXR unremarkable. EKG w/ ? S1Q3T3, 
but
stable from prior EKGs, no ischemic ST-T wave changes

Bilateral lower extremity US:
No evidence of deep venous thrombosis in the right or left lower
extremity veins.

Patient was given: 
___ 18:18 IV Heparin 1350 units/hr 
___ 19:39 IH Albuterol 0.083% Neb  
___ 21:03 PO/NG Acyclovir 400 mg 
___ 21:03 PO/NG Metoprolol Tartrate 50 mg   
___ 21:03 PO Tacrolimus 4 mg 
___ 21:03 PO/NG Acetaminophen 650 mg 

Consults: none

Upon arrival to the floor, patient states her pain is currently 
well controlled but gets worse with deep breaths or if she lies 
flat. Additionally states that she feels as though her lupus has 
been more active since the beginning of the ___. Has been 
getting join pains, rashes for the last few months. Endorses
history of plural/pericardial effusions, BOOP related to SLE in 
past. Denies ever being diagnoses with pleuritis, tamponade in 
past.
 
Past Medical History:
1. Lupus
2. Prior DVT, not currently on anticoagulation
3. Renal transplant in ___ 
4. Hypertension.  
5. Depression. 
6. Sjogren syndrome - ___
7. BOOP - ___
8. Inflammatory arthropathy
9. Orthostatic hypotension - ___
 
Social History:
___
Family History:
Mother Living ___ DIABETES MELLITUS, ASTHENIA, OBESITY  
Father Living ___ BIPOLAR DISORDER  
Sister Living 34 LUPUS 
 
Physical Exam:
ADMISSION EXAM:
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection. MMM.
NECK: Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or 
rales. No increased work of breathing.
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.

DISCHARGE EXAM:
24 HR Data (last updated ___ @ 1139)
Temp: 98.3 (Tm 98.6), BP: 116/81 (103-133/71-94), HR: 86 
(76-86),
RR: 18, O2 sat: 95% (95-100), O2 delivery: Ra, Wt: 261.68
lb/118.7 kg (amb sat 100% on RA on ___
Gen: sitting comfortably in bed in NAD
HEENT: PERRL, EOMI, OP clear
CV: RRR, nl S1, S2, no m/r/g, no friction rub appreciated, JVP 
flat
Chest: CTAB, mild TTP over sternum, no R-sided lateral chest 
wall
tenderness w/palpation
Abd: obese, + BS, soft, NT, ND
MSK: lower ext warm without edema; joints without evidence of
effusions or arthritis
Neuro: AOx3, CN II-XII intact, ___ strength all extremities,
sensation grossly intact throughout, gait not tested
Psych: pleasant, appropriate affect
 
Pertinent Results:
CBC:
___ 04:20PM BLOOD WBC-6.4 RBC-4.00 Hgb-10.3* Hct-32.7* 
MCV-82 MCH-25.8* MCHC-31.5* RDW-14.8 RDWSD-44.1 Plt ___
___ 08:20AM BLOOD WBC-7.7 RBC-3.76* Hgb-9.5* Hct-30.8* 
MCV-82 MCH-25.3* MCHC-30.8* RDW-14.8 RDWSD-44.7 Plt ___
___ 10:05AM BLOOD WBC-7.7 RBC-4.04 Hgb-10.4* Hct-32.9* 
MCV-81* MCH-25.7* MCHC-31.6* RDW-14.8 RDWSD-43.6 Plt ___

BMP:
___ 04:20PM BLOOD Glucose-95 UreaN-20 Creat-1.5* Na-138 
K-5.9* Cl-103 HCO3-23 AnGap-12
___ 08:20AM BLOOD Glucose-90 UreaN-27* Creat-1.5* Na-140 
K-4.5 Cl-104 HCO3-23 AnGap-13
___ 10:05AM BLOOD Glucose-121* UreaN-25* Creat-1.6* Na-137 
K-4.7 Cl-103 HCO3-22 AnGap-12

___ 04:20PM BLOOD cTropnT-<0.01
___ 08:20AM BLOOD TSH-4.5*
___ 08:20AM BLOOD T4-7.7
___ 08:20AM BLOOD CRP-16.1*
___ 08:20AM BLOOD C3-155 C4-45*
___ 08:20AM BLOOD CRP-16.1* dsDNA-NEGATIVE

___ 08:20AM BLOOD tacroFK-7.1
___ 10:05AM BLOOD tacroFK-6.2

EKG (___):
NSR at 83 bpm, nl axis, PR 161, QRS 87, QTC 362, Q in III,
otherwise no ST changes

CXR ___:
PA and lateral views of the chest provided.  Suture material is 
noted in the right midlung as on prior.  The lungs are clear 
bilaterally.  No focal
consolidation, large effusion, pneumothorax.  Cardiomediastinal 
silhouette is stable.  Bony structures are intact.  No free air 
below the right 
hemidiaphragm. 

LENIs ___:
No evidence of deep venous thrombosis in the right or left lower 
extremity veins. 

V/Q scan ___:
FINDINGS:  Ventilation images demonstrate no focal ventilation 
defects. 
Perfusion images demonstrate  no  perfusion defects. 
Chest x-ray shows no acute cardiopulmonary process. 
In comparison, prior lung scan dated ___ showed normal 
perfusion (no 
ventilation data available as patient was unable to adequately 
inhale tracer aerosol). 
IMPRESSION:  1.  No evidence of pulmonary embolism 
 
Brief Hospital Course:
___ woman with past medical history of SLE (on
plaquenil), Sjogren's syndrome, Lupus nephritis s/p DDRT ___ 
(on
tac/pred) w/chronic allograft dysfunction (b/l Cr 1.4-1.6),
remote pericarditis, prior DVT no longer on anticoagulation,
recent admission for lightheadedness (___) p/w R-sided
pleuritic chest pain and DOE, likely MSK in etiology and
resolving at discharge.

# Dyspnea on exertion:
# Pleuritic chest pain:
Patient presented with R-sided pleuritic chest pain and DOE 
after
recent flight from ___. Onset after plane travel concerning
for PE, but CTA could not be obtained due to a contrast allergy.
She was empirically anticoagulated with heparin in the ED and
admitted. B/l LENIs and V/Q scan were negative, and heparin was
discontinued. CXR without evidence of PNA, and EKG/negative
biomarkers argue against ACS or pericarditis. Low suspicion for
pleuritis secondary to SLE given absence of active joint disease
and normal complement levels and dsDNA. Suspect that her pain is
likely MSK given reproducible tenderness on exam, improving at
the time of discharge. Dsypnea had resolved by the time of
discharge, and ambulatory sats were 100% on RA. She will f/u 
with
her PCP ___ ___. 

# ESRD s/p DDRT ___:
# Chronic allograft nephropathy:
Cr 1.5 on admission (baseline 1.3-1.5). She was followed by the
renal transplant team while in-house. Tacrolimus levels were
therapeutic. At the transplant team's suggestion, home OTC
melatonin was discontinued on discharge given potential for
interaction with tacrolimus. She was discharged on home
prednisone 5mg daily and tacrolimus 4mg q12h, as well as her 
home
acyclovir ppx. F/u in the ___ is scheduled for
___.

# SLE: 
# Sjogren's:
Patient has a hx of SLE and Sjogren's, for which she is followed
by rheumatology. There was low suspicion for active 
rheumatologic
disease despite mildly elevated CRP of 16. Complement levels and
dsDNA were normal. She was discharged on her home plaquenil and
prednisone and will f/u with rheumatology on ___.

# Borderline microcytic anemia:
Hgb 10.3 on admission, stable at 10.4 on discharge. Baseline
appears to be ___. No e/o active bleeding. Further w/u 
deferred
to outpatient setting.

# Hypertension: continued home metoprolol
# Depression/Anxiety: continued home lorazepam QHS, mitrazipine,
ziprasidone, prazosin
# Metabolic acidosis: continued NaHCO3

TRANSITIONAL ISSUES:
[] F/u ESR pending at discharge
[] Avoid melatonin given potential for immunomodulation with
tacrolimus (per renal transplant team)
[] further w/u of ongoing microcytic anemia (stable this
admission)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Hydroxychloroquine Sulfate 200 mg PO BID 
3. LORazepam 1 mg PO QHS 
4. Metoprolol Tartrate 50 mg PO BID 
5. Mirtazapine 30 mg PO QHS 
6. Prazosin 1 mg PO QHS 
7. PredniSONE 5 mg PO DAILY 
8. Sodium Bicarbonate 650 mg PO BID 
9. Tacrolimus 4 mg PO Q12H 
10. Vitamin D 1000 UNIT PO DAILY 
11. ZIPRASidone Hydrochloride 80 mg PO QHS 
12. Clindamycin 600 mg PO ASDIR prior to dental procedures 
13. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 
14. ___ ___ UNIT PO Q4H:PRN thrush 
15. melatonin 10 mg oral QHS 
16. biotin 1 mg oral DAILY 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q12H  
2.  biotin 1 mg oral DAILY  
3.  Clindamycin 600 mg PO ASDIR prior to dental procedures  
4.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 Duration: 1 Dose  
5.  Hydroxychloroquine Sulfate 200 mg PO BID  
6.  LORazepam 1 mg PO QHS  
7.  Metoprolol Tartrate 50 mg PO BID  
8.  Mirtazapine 30 mg PO QHS  
9.  ___ ___ UNIT PO Q4H:PRN thrush  
10.  Prazosin 1 mg PO QHS  
11.  PredniSONE 5 mg PO DAILY  
12.  Sodium Bicarbonate 650 mg PO BID  
13.  Tacrolimus 4 mg PO Q12H  
14.  Vitamin D 1000 UNIT PO DAILY  
15.  ZIPRASidone Hydrochloride 80 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Costochondritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  
It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?  
- You were admitted to the hospital with chest pain that 
worsened with breathing.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were started on blood thinners because of concern for a 
blood clot in your lungs.
- Your lungs were scanned to evaluate for a blood clot in the 
lungs. The scan was negative so the blood thinner was stopped.
- You also got blood work to evaluate for whether lupus could be 
causing your chest pain.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Please note all of your medication changes below, as well as 
your upcoming doctor appointments. 

We wish you the best!

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___